* BSIMBULK model vers. 107
* simple inverter
* to be started in batch mode with raw file, e.g.
* ngspice -b -r invout.raw bsimbulk_inverter_batch.sp

.param Vcc = 1.2
.csparam vcc='Vcc'

* Path to the models
.include Modelcards/model.l

* the voltage sources:
Vdd vdd gnd DC 'Vcc'
V1 in gnd pulse(0 'Vcc' 0p 200p 100p 1n 2n)
Vmeas vss 0 0

Xnot1 in vdd vss out not1
*Rout out 0 1k

.subckt not1 a vdd vss z
Np1 z a vdd vdd BSIMBULK_osdi_P  l=0.1u  w=1u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
Nn1 z a vss vss BSIMBULK_osdi_N l=0.1u  w=0.5u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
c3  a     vss   0.384f
c2  z     vss   0.576f
.ends

* simulation command:
.tran 10ps 10ns
.dc V1 0 'vcc' 'vcc/100'

.end
